US08383820B2
3-[2-(1-Cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-N-(5-hydroxy-adamantan-2-yl)-benzamide
Prepared from 3-[2-(1-cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-benzoic acid and 4-amino-1-hydroxyadamantane. 1H NMR (400 MHz, CDCl3): δ 7.32-7.38 (m, 2 H), 7.24-7.26 (m, 1 H), 7.03 (dd, 1 H), 6.32 (d, 1 H), 4.19-4.24 (m, 1 H), 4.07 (t, 2 H), 3.78-3.85 (m, 2 H), 2.81 (td, 2 H), 2.61 (br. s., 2 H), 2.22-2.29 (m, 3 H), 2.18-2.22 (m, 1 H), 1.95 (d, 2 H), 1.73-1.89 (m, 11 H), 1.65-1.73 (m, 1 H), 1.59 (d, 2 H), 1.41 (dd, 1 H), 1.35 (dd, 1 H), 1.14-1.20 (m, 2 H), 0.94-1.00 (m, 2 H).

reactant | 3-[2-(1-cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-benzoic acid | C1(CC1)S(=O)(=O)N1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C17H23NO5S
reactant | 4-amino-1-hydroxyadamantane | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
product | 3-[2-(1-Cyclopropanesulfonyl-piperidin-4-yl)-ethoxy]-N-(5-hydroxy-adamantan-2-yl)-benzamide | C1(CC1)S(=O)(=O)N1CCC(CC1)CCOC=1C=C(C(=O)NC2C3CC4CC(CC2C4)(C3)O)C=CC1 | C27H38N2O5S
